US04361563
(a) 5-Methyl-6-(3-amino-4-acetyl-methylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine
0.65 gm of 5-methyl-6-(3-nitro-4-acetyl-methylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine were dissolved in 30 ml of ethanol and mixed with 0.5 ml of 80% hydrazine hydrate and 0.5 gm of Raney-nickel. The reaction mixture was heated at 30° C. for 10 minutes. After filtering off of the catalyst, the filtrate was mixed with glacial acetic acid and evaporated in vacuo. The residue was directly processed further.

reactant | 5-methyl-6-(3-nitro-4-acetyl-methylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine | 0.65 gm | CC1CC(NN=C1C1=C(C(=C(C=C1)C(C)=O)[N+](=O)[O-])NC)=O | C14H16N4O4
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.5 gm | [Ni] | Ni
product | 5-Methyl-6-(3-amino-4-acetyl-methylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine | CC1CC(NN=C1C1=C(C(=C(C=C1)C(C)=O)N)NC)=O | C14H18N4O2
